US08013154B2
C. Preparation of 2-Amino-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridine
A 350 mL stainless steel pressure reactor equipped with a mechanical stirrer was charged with 6-azido-2,4-bis(2,2,2-trifluoroethoxy)-3-chloro-5-fluoropyridine (14.0 g, 38.0 mmol), EtOH (50 mL), and palladium on carbon (10%, 4.0 g). The reactor was sealed and pressurized with H2 (500 psi). The pressurized reactor was heated to 100° C. After 18 h the pressurized reactor was cooled to ambient temperature. A GC analysis indicated all the starting material was consumed. The reaction was filtered and the volatiles evaporated to afford the crude product as a brown oil. The brown oil was purified by column chromatography (SiO2, hexane/EtOAc) to afford the product as a brown crystalline solid (7.29 g, 62% yield): mp 43-45° C.; 1H NMR (CDCl3) δ 5.84 (d, J=4.1 Hz, 1H), 5.85-4.56 (q, J=8.5, 2H), 4.49-4.37 (m, 4H); GC-MS (EI, 70 eV) m/z (% relative intensity) 308 (100), 289 (26), 239 (74).

reactant | 6-azido-2,4-bis(2,2,2-trifluoroethoxy)-3-chloro-5-fluoropyridine | 38.0 mmol, 14.0 g | N(=[N+]=[N-])C1=C(C(=C(C(=N1)OCC(F)(F)F)Cl)OCC(F)(F)F)F | C9H4ClF7N4O2
catalyst | palladium on carbon | 4.0 g | [Pd] | Pd
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-Amino-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridine | 7.29 g, 62% yield | NC1=NC(=CC(=C1F)OCC(F)(F)F)OCC(F)(F)F | C9H7F7N2O2
